Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]([C:4]([H:10])([H:11])[H:12])([N:5]=[C:6]=[O:7])[H:9])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],81.8340767533945
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][H:10])([H:7])([H:8])[H:9].[C:2](#[N:3])[C:5]#[C:6][H:11],81.51760173696749
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]1[C+:4]([H:13])[N:5]([H:14])[N-:6][N:7]1[H:11])[H:12])([H:8])([H:9])[H:10],76.919996707876
[O:1]([C:2](/[C:5](=[C:3](\[O:4][H:11])[H:10])[C:6][H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],24.345759813303403
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14],69.7242711772175
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](#[N:3])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],76.90285920095401
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]([C@:2]1([C:6]#[N:7])[C:3]([H:8])([H:9])[C:4]1=[C:5])[H:10],82.9108300007544
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]=[O+:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10].[H:14][H:15],84.6747319418082
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[O+:1](=[C-:2][H:7])[C:3](=[O:4])[C:5]#[N:6],60.85729094225739
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[N:2](=[C:3]=[N:4][H:10])[C:5]#[N:6],88.52106362528929
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[C:5]([C:6]#[N:7])([H:8])([H:12])[H:13].[N:1]#[C:2][H:9].[O:3]=[C:4]([H:10])[H:11],66.28348791111429
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[C:5]=[N:6][H:8].[O:1]([C+:2]=[C:3]=[N-:4])[H:7],71.0974346938255
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:6]1=[C:7]([H:14])[C:5]1([H:12])[H:13],105.002632911868
[O:1]([O:4]/[C:3](=[C:2](/[C:5]#[C:6][H:10])[H:8])[H:9])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],26.04131892385599
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C@:6]1([O:7][H:21])[H:19])([H:8])([H:9])[H:10].[H:12][H:20],96.4414822557073
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5][O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:15])([H:16])([H:17])[H:18],73.36904519279629
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1(/[N:4]=[N:5]/[H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],123.795264201968
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[H:8][H:12].[N-:1]=[C:2]1[O:3][C:4]([H:9])([H:10])[C@@:5]12[C+:6]([H:11])[N:7]2[H:13],137.177085120471
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[O:3])([C:4]([O:5][H:12])([C:6](=[O:7])[H:15])[H:13])[H:11],65.5712137787105
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[H:8][H:14].[O:1]=[C:2]([C:3]([C:4]1([O:5][H:12])[C:6]([H:13])=[C:7]1[H:15])([H:10])[H:11])[H:9],59.649403765322106
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]#[N:6])[H:13]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],60.7436051047184
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]([C:4]#[N:5])=[C:6]=[N-:7])[H:11])([H:8])[H:10].[H:9][H:12],46.023040227106
[O:1]=[C:2]=[C:3]([C:4]([O:5][C:6]([H:7])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12],60.6066625523649
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]1([H:10])[C:4]([H:11])([H:12])[C@@:5]1([C:6][H:14])[H:13])([H:7])([H:8])[H:9],85.1388111894359
[n:1]1([H:8])[c:2]([H:10])[c:7]([C:6](=[O:5])[H:9])[n:4][n:3]1>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],45.94345049273841
[O:1]([C:2]([C:3]1=[C:6]([H:15])[C:5]([H:13])([H:14])[C@:4]1([O:7][H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],90.8792010080133
